US08071584B2
2-Phenyltetrahydro-4H-thiopyran-4-one
7-Phenyl-1,4-dioxa-8-thiaspiro[4.5]decane was dissolved in acetic acid (50 mL) and 2 N aqueous hydrochloric acid (70 mL). After being stirred at room temperature for 15 h, the mixture was extracted with ether (300 mL), and the ether extract washed with water (2×50 mL), 10% aqueous sodium hydroxide (3×50 mL), and finally with water (2×50 mL). The dried (Na2SO4) solution was evaporated, and the residue was crystallized upon standing overnight in ether, giving 3.5 g (21.1% over two steps) of the title compound.

reactant | 7-Phenyl-1,4-dioxa-8-thiaspiro[4.5]decane | C1(=CC=CC=C1)C1CC2(OCCO2)CCS1 | C13H16O2S
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 2 N, 70 mL | Cl | ClH
product | 2-Phenyltetrahydro-4H-thiopyran-4-one | C1(=CC=CC=C1)C1SCCC(C1)=O | C11H12OS
